US07544690B2
To a solution of 4-bromobenzoic acid (5 g, 0.025 mol) in THF (150 mL) under an atmosphere of argon were added tetrakis(triphenylphosphine) palladium(0) (862 mg, 0.75 mmol), 2 M aqueous Na2CO3 (30 mL), and a solution 4-fluorophenyboronic acid (3.48 g, 0.025 mol) in a minimal amount of ethanol (˜10 mL). The resulting reaction mixture was stirred at reflux under an argon atmosphere for overnight. The reaction mixture was cooled to ambient temperature and acidified with addition of 1 M HCl aqueous. The aqueous layer was extracted with Et2O (three times). The organic layers were combined, dried over MgSO4, filtered and concentrated. The resulting precipitate was crystallized in Et2O and hexane to give 4′-fluoro-biphenyl-4-carboxylic acid (4.4 g, 0.020 mol, 82%) as a white solid.

reactant | 4-bromobenzoic acid | 0.025 mol, 5 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | Na2CO3 | 2 M, 30 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-fluorophenyboronic acid | 0.025 mol, 3.48 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | HCl | 1 M | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.75 mmol, 862 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | hexane | CCCCCC | C6H14
solvent | ethanol | ˜10 mL | C(C)O | C2H6O
product | 4′-fluoro-biphenyl-4-carboxylic acid | 0.020 mol, 4.4 g, 82% | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9FO2
